US04413009
N-((methylamino)carbonyl)-N-(((methyl-amino)carbonyl)oxy)propionamide
Propiohydroxamic acid (4.5 grams), methyl isocyanate (6.0 grams), and a few drops of triethylamine were stirred for about one hour in about 50 ml of methylene chloride. The resulting solution was allowed to stand at room temperature for about 48 hours, after which the solvent was removed by evaporation leaving a residue. The residue was recrystallized from a mixture of methylene chloride and hexane leaving the desired, N-((methylamino)carbonyl)-N-(((methylamino)carbonyl)-oxy)propionamide as white crystals, m.p. 90.5°-92.5° C.

reactant | Propiohydroxamic acid | 4.5 grams | C(CC)(=O)NO | C3H7NO2
reactant | methyl isocyanate | 6.0 grams | CN=C=O | C2H3NO
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
product | N-((methylamino)carbonyl)-N-(((methyl-amino)carbonyl)oxy)propionamide | CNC(=O)N(C(CC)=O)OC(=O)NC | C7H13N3O4
